US05010078
N-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-2-benzofurancarboxamide Dihydrochloride
To a stirred solution of [4-(2-methoxyphenyl)piperazino]propylamine (1.0 g, 0.04 mol) in 50 mL of methylene dichloride, benzofurane-2-carboxylic acid chloride (1.01 g, 0.0056 mol) and triethylamine (1 g, 0.01 mol) were added. Stirring was continued at room temperature overnight. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The remaining residue was subjected to preparative HPLC using silica gel column and ethyl acetate as the eluent. The title compound was separated and converted to the dihydrochloride salt with ethanolic HCl (0.9 g), m.p. 228°-232° C.

reactant | [4-(2-methoxyphenyl)piperazino]propylamine | 0.04 mol, 1.0 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
reactant | benzofurane-2-carboxylic acid chloride | 0.0056 mol, 1.01 g | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 0.01 mol, 1 g | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-2-benzofurancarboxamide Dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)C=1OC2=C(C1)C=CC=C2 | InChI=1S/C23H27N3O3.2ClH/c1-28-21-10-5-3-8-19(21)26-15-13-25(14-16-26)12-6-11-24-23(27)22-17-18-7-2-4-9-20(18)29-22;;/h2-5,7-10,17H,6,11-16H2,1H3,(H,24,27);2*1H
